US08466282B2
1-(4-methoxybutyl)-5-phenyl-1H-pyrrole-2-carboxylic acid
Ethyl 1-(4-methoxybutyl)-5-phenyl-1H-pyrrole-2-carboxylate (430 mg) was dissolved in methanol (2 ml), 2M aqueous sodium hydroxide solution (4 ml) was added and the mixture was stirred at 60° C. for 12 hr. The reaction mixture was concentrated under reduced pressure, and the aqueous layer of the mixture was adjusted to pH 3 with 6M hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the object product (420 mg).

reactant | Ethyl 1-(4-methoxybutyl)-5-phenyl-1H-pyrrole-2-carboxylate | 430 mg | COCCCCN1C(=CC=C1C1=CC=CC=C1)C(=O)OCC | C18H23NO3
reactant | sodium hydroxide | 2M, 4 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 1-(4-methoxybutyl)-5-phenyl-1H-pyrrole-2-carboxylic acid | 420 mg | COCCCCN1C(=CC=C1C1=CC=CC=C1)C(=O)O | C16H19NO3
